Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Avelox / Lipitor / Elavil / 
Motrin / morphine / ellipta / Penicillins
 
Attending: ___.
 
Chief Complaint:
Severe Aortic Stenosis s/p TAVR
 
Major Surgical or Invasive Procedure:
TAVR (___)
PPM (___)
 
History of Present Illness:
Ms. ___ is a ___ y/o F w/ severe aortic stenosis, afib
(on Elliquis), non-obstructive CAD, hypothyroidism, breast 
cancer
s/p lumpectomy, hypertension, and HLD, who presents now for 
TAVR.

Of note, patient was recently admitted from ___ to ___ for
pre-syncope and afib w/ RVR. She was found to have severe AS, 
and
her symptoms were thought secondary to this. She underwent
emergent TAVR work-up, but unfortunately the day she was
scheduled to undergo the procedure received apixiban. Thus, she
instead was discharged with plan for TAVR ___.     

Patient states since discharge she has essentially been home
bound due to her significant dyspnea. She denies any chest pain
or palpitations. She presented for her procedure as scheduled
today. Given her baseline RBBB, she was felt high risk for
arrhythmias, and thus a temporary pacemaker was placed prior to
the procedure. The procedure itself was unremarkable, with
successful placement of her prosthesis. She did, however, 
develop
___ Mobitz Type 1, and thus required pacing.    

 
Past Medical History:
Cardiac History:  
- Afib  
- Non-obstructive CAD
- HTN
- HLD 
Other PMH:  
- Breast cancer s/p lumpectomy 
- Fibromyalgia 
- GERD
- Hypothyroidism
 
Social History:
___
Family History:
There was no family history of stroke, diabetes, hypertension,
heart disease. He mother died at ___ of an aneurysm and was a
smoker. Her father died at ___ of dementia. 
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
==================================
VS: Reviewed in Metavision  
GENERAL: Elderly appearing female in no acute distress 
HEENT: Normocephalic, atraumatic. Pacemaker temporary wire in
place over RIJ.    
CARDIAC: Regular rate and rhythm, loud S2   
LUNGS: No increased work of breathing, CTAB
ABDOMEN: Soft, non-tender, non-distended. 
EXTREMITIES: Warm, well perfused. No lower extremity edema.
Bandage over right femoral area, c/d/I 
PULSES: Distal pulses palpable and symmetric.  
NEURO: CNII-XII grossly intact   

DISCHARGE PHYSICAL EXAM:
=================================
VS: T 97.6 BP 120/54 HR 78 RR 18 SpO2 100% RA
Wt: 157.6 lbs
PE:
Gen: Patient is comfortable, in no acute distress.
HEENT: Face symmetrical, trachea midline.
Neuro: A/Ox3. Speaking in complete, coherent sentences. No focal 
deficits. 
Pulm: Breathing unlabored. Breath sounds clear bilaterally. 
Cardiac: No JVD. No thrills or bruits heard on carotids 
bilaterally. S1, S2 RRR. No splitting of heart sounds, murmurs, 
S3, S4 or friction rubs heard. 
Vasc: No edema noted in bilateral upper or lower extremities. No 
pigmentation changes noted in bilateral upper or lower 
extremities. Skin dry, warm. Bilateral radial, ___ pulses 
palpable 2+. 
Integ: Bilateral femoral access sites soft, non-tender with no 
drainage, swelling or hematoma noted. Both sites are open to 
air. No bruits auscultated. L chest incision with dry gauze 
dressing. No swelling, drainage, redness or hematoma noted. 
Abd: Rounded, soft, non-tender. 

 
Pertinent Results:
ADMISSION LABS
==================
___ 06:25PM BLOOD WBC-5.3 RBC-3.59* Hgb-9.3* Hct-30.1* 
MCV-84 MCH-25.9* MCHC-30.9* RDW-14.8 RDWSD-45.1 Plt ___
___ 06:25PM BLOOD ___ PTT-50.2* ___
___ 06:25PM BLOOD Glucose-90 UreaN-14 Creat-0.8 Na-142 
K-4.5 Cl-109* HCO3-23 AnGap-10
___ 06:25PM BLOOD Calcium-8.8 Phos-3.3 Mg-1.8

DISCHARGE LABS: 
==============
___ WBC-10.6* RBC-3.92 Hgb-10.3* Hct-33.2* MCV-85 MCH-26.3 
MCHC-31.0* RDW-15.3 RDWSD-46.4* Plt ___
___ ___
___ UreaN-19 Creat-0.9 Na-142 K-3.8 Cl-105 HCO3-23 AnGap-14 
Mg-2.0

IMAGING
==========
TTE ___
CONCLUSION:
Pre-TAVR:
Overall left ventricular systolic function is normal. The 
visually estimated left ventricular ejection fraction is 55-60%. 
The aortic valve leaflets are severely thickened. There is 
SEVERE aortic valve stenosis
(valve area 1.0 cm2 or less). There is trace aortic 
regurgitation. The mitral valve leaflets are mildly thickened. 
There is mild [1+] mitral regurgitation.
POST-PROCEDURE: The Evolut Pro TAVR prosthesis is well seated 
with normal leaflet motion and normal gradient. There is a 
paravalvular jet of trace aortic regurgitation. There is no 
pericardial effusion.

TTE ___
CONCLUSION:
The left atrial volume index is moderately increased. The 
estimated right atrial pressure is ___ mmHg. There is moderate 
symmetric left ventricular hypertrophy with a normal cavity 
size. There is normal regional and global left ventricular 
systolic function. Quantitative biplane left ventricular 
ejection fraction is 65% (normal 54-73%). There is no resting 
left ventricular outflow tract gradient. Normal right 
ventricular cavity size with normal free wall motion. The aortic 
sinus diameter is normal for gender with normal ascending aorta 
diameter for gender. The aortic arch diameter is normal with a 
mildly dilated descending aorta. An Evolut Pro aortic valve 
bioprosthesis is present. The prosthesis is well seated with 
normal gradient. There is trace aortic regurgitation. The mitral 
valve leaflets are mildly thickened with no mitral valve 
prolapse. There is moderate mitral annular calcification. There 
is mild [1+] mitral regurgitation, with evidence of flow in both
systolic and diastole likely related to prolonged PR interval/AV 
delay. Due to acoustic shadowing, the severity of mitral 
regurgitation could be UNDERestimated. The pulmonic valve 
leaflets are normal. There is mild
pulmonic regurgitation. The tricuspid valve leaflets appear 
structurally normal. There is mild [1+] tricuspid regurgitation 
with evidence of diastolic tricuspid regurgitation. Due to 
acoustic shadowing, the severity of tricuspid regurgitation may 
be UNDERestimated. There is mild pulmonary artery systolic 
hypertension. There is no pericardial effusion.
Compared with the prior TTE (images reviewed) of ___ , 
the aortic valve has been replaced with a normal functioning 
TAVR with trivial paravalvular regurgitation. Diastolic mitral 
and tricuspid regurgitation are present and pacing wire is new.

EP Report ___: 
• Successful implant of a dual chamber PPM via the left cephalic 
vein.
• Successful removal of the RIJ temp wire.
• No complications.

 
Brief Hospital Course:
Ms. ___ is an ___ y/o F w/ afib, HLD, and HTN,
presenting now for TAVR c/b Mobitz type 1 3:2 block. 

#CORONARIES: 40% proximal LAD stenosis (___)
#PUMP: EF 55-60% 
#RHYTHM: V paced rate 60-85 bpm

ACUTE ISSUES: 
============= 
#. Mobitz Type I, 3:2 Block 
Noted on post-TAVR EKG to have new conduction defect c/w Mobitz 
I. Arrhythmia likely in setting of procedure given increased 
risk in setting of her baseline RBBB. Temp wire placed by EP, on 
VVI. Permanent dual chamber PPM placed and temp wire removed 
___ with no complications. Site stable. Interrogation and 
post-op CXR were WNL. Home beta blockers and CCB restarted.

#. Severe Aortic Stenosis s/p TAVR 
Pre-procedure, aortic valve area 1.0 cm2 or less. Underwent TAVR
with placement of 29 mm EVOLUT Pro prosthesis on ___. Per
post-procedure echo, TAVR prosthesis appears to be in 
appropriate
location with trace aortic regurgitation (AV peak/mean 
gradients: 16 mmHg/8 mmHg), ___ 1.8 cm2. Anticoagulation: Asa, 
Apixaban 

#. Atrial Fibrillation 
- RC: Continue Sotalol and Verapamil
- Anticoagulation: Continue Apixaban

#. Normocytic Hypochromic Anemia
Hemoglobin decreased from 10.5 to 9.3 post-TAVR. Stable on dc 
(10.3). No overt evidence of bleeding, catheter insertion sites 
appeared stable. 

CHRONIC ISSUES:
===============
#. HTN: clinically stable
- Continue Losartan

#. HLD: FLP unknown
- Continue Ezetimibe 

#. Hypothyroidism
- Continue Levothyroxine 

#. GERD
- Continue ranitidine 

# Dispo: Home today with ___ services
- Device clinic follow up in ___: ___ @ 1040, then 
___ thereafter with ___, NP ___ @ 1400
- Structural follow up with concurrent TTE: ___ @ 1400, 1500
- PCP ___ Cardiology Dr. ___ ups requested for 
___are Connections.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Apixaban 5 mg PO BID 
2. Docusate Sodium 100 mg PO BID 
3. Ezetimibe 10 mg PO QPM 
4. Levothyroxine Sodium 125 mcg PO DAILY 
5. Losartan Potassium 25 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Oxazepam 30 mg PO QHS 
8. Ranitidine 150 mg PO DAILY:PRN GERD 
9. Senna 8.6 mg PO QHS 
10. Vitamin D ___ UNIT PO DAILY 
11. Ascorbic Acid ___ mg PO DAILY 
12. Bacillus coagulans 1 billion cell oral DAILY 
13. Sotalol 80 mg PO BID 
14. Verapamil SR 120 mg PO Q12H 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Apixaban 5 mg PO BID  
3.  Ascorbic Acid ___ mg PO DAILY  
4.  Bacillus coagulans 1 billion cell oral DAILY  
5.  Docusate Sodium 100 mg PO BID  
6.  Ezetimibe 10 mg PO QPM  
7.  Levothyroxine Sodium 125 mcg PO DAILY  
8.  Losartan Potassium 25 mg PO DAILY  
9.  Multivitamins 1 TAB PO DAILY  
10.  Oxazepam 30 mg PO QHS  
11.  Ranitidine 150 mg PO DAILY:PRN GERD  
12.  Senna 8.6 mg PO QHS  
13.  Sotalol 80 mg PO BID  
14.  Verapamil SR 120 mg PO Q12H  
15.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Severe Aortic Stenosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

VS: T 97.6 BP 120/54 HR 78 RR 18 SpO2 100% RA
PE:
Gen: Patient is comfortable, in no acute distress.
HEENT: Face symmetrical, trachea midline.
Neuro: A/Ox3. Speaking in complete, coherent sentences. No focal 
deficits.  
Pulm: Breathing unlabored. Breath sounds clear bilaterally. 
Cardiac: No JVD. No thrills or bruits heard on carotids 
bilaterally. S1, S2 RRR. No splitting of heart sounds, murmurs, 
S3, S4 or friction rubs heard. 
Vasc: No edema noted in bilateral upper or lower extremities. No 
pigmentation changes noted in bilateral upper or lower 
extremities. Skin dry, warm. Bilateral radial, ___ pulses 
palpable 2+. 
Integ: Bilateral femoral access sites soft, non-tender with no 
drainage, swelling or hematoma noted. Both sites are open to 
air. No bruits auscultated. L chest incision with dry gauze 
dressing. No swelling, drainage, redness or hematoma noted. 
Abd: Rounded, soft, non-tender. 

 
Discharge Instructions:
You were admitted for a trans catheter aortic valve replacement 
(TAVR) to treat your aortic valve stenosis which was done on 
___. By repairing the valve your heart can pump blood more 
easily and your dyspnea should improve. 
 After your TAVR procedure you had a slow heart rhythm and 
required a pacemaker implant. Activity restrictions and 
information regarding care of the procedure site on your chest 
are included in your discharge instructions.  An appointment was 
made for you to return in 1 week to the device clinic to check 
the wound. This was made in ___ because there was no 
available appointments in ___. Subsequent follow ups for your 
pacemaker will be in ___. 

It is very important to take all of your heart healthy 
medications. In particular, you are now taking Aspirin and 
Apixaban (Eliquis). A prescription for Aspirin was sent to your 
local ___. These medications help to prevent blood 
clots from forming on the new valve. If you stop these 
medications or miss ___ dose, you risk causing a blood clot 
forming on your new valve. This could cause it to malfunction 
and it may be life threatening. Please do not stop taking 
Aspirin and Apixaban without taking to your heart doctor, even 
if another doctor tells you to stop the medications.  

You will need prophylactic antibiotics prior to any dental 
procedure. Please inform your dentist about your recent cardiac 
procedure, and obtain a prescription from your doctor before any 
procedure.  

Please weigh yourself every day in the morning after you go to 
the bathroom and before you get dressed. If your weight goes up 
by more than 3 lbs in 1 day or more than 5 lbs in 3 days, please 
call your heart doctor or your primary care doctor and alert 
them to this change. Your weight at discharge is 158 lbs.  
 
We have made changes to your medication list, so please make 
sure to take your medications as directed. You will also need to 
have close follow up with your heart doctor and your primary 
care doctor.  

If you were given any prescriptions on discharge, any future 
refills will need to be authorized by your outpatient providers, 
primary care or cardiologist. 

If you have any urgent questions that are related to your 
recovery from your procedure or are experiencing any symptoms 
that are concerning to you and you think you may need to return 
to the hospital, please call the ___ Heart Line at 
___ to speak to a cardiologist or cardiac nurse 
practitioner.  

It has been a pleasure to have participated in your care and we 
wish you the best with your health.  

 
Followup Instructions:
___